Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Continued purulent drainage, increased drainage around drain
insertion site, 10 kg weight loss

 
Major Surgical or Invasive Procedure:
___: ERCP, drain exchange with upsize, feeding tube 
placement
___: Central line placement
___: PPFT replaced
___: CT guided drain upsizing, 10 -> 14 ___

 
History of Present Illness:
___ s/p MVC on ___ and was transferred in from an OSH with 
multiple injuries including an acute abdomen with avulsion of 
small bowel and multiple liver lacerations. Following an ICU 
course was found to have a R posterior large
necrotic liver lesion in which a drain was placed. He has been 
treated with antibiotics and was readmitted x 1 for 9 days to 
restart antibiotics and have new drain placed. He continued 
antibiotics for one week following that admission and since that 
time has the drain in place which drains approximately 70-80 cc 
of milky pale thick drainage daily. The patient reports that the 
drainage from around the catheter haa increased significantly 
over the last few days, and it has developed a very bad odor 
that has caused him to be unable to eat. Since the last 
admission he has dropped another 10 kg, and has lost nearly 45 
kg since the
MVC.

Patient denies recent fevers or chills, no chest pain or 
shortness of breath, he reports abdominal pain associated with 
the drain site area, and has poor appetite and occasional 
constipation. He still is taking PO dilaudid intermittently for 
musculoskeletal pain of the lower back and also neck from the 
___. The collar has been removed. He reports no edema or 
abdominal swelling. Reports very low energy and barely able to 
move about house.
 
Past Medical History:
MVC with liver lacs leading to necrotic liver lesion

PSH:
Exploratory laparotomy, washout of hemoperitoneum, debridement 
of laceration of the liver, ileocecectomy, ileocolostomy.
s/p Left ankle ORIF
s/p removal of adenoids
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS: 98.8, 118, 121/79, 20, 100%, 98.8 kg
Gen: Sl pale, more interactive
CV: Sl Tachy, reg rhythm
Lungs: CTA B/L
Abd: soft, mild tenderness most at drain site on rt lateral
abdomen and RUQ, Well healed abdominal incision, drain with 
milky
light tan drainage, drain site slightly red with same tan
drainage around site and on dressing
Extr: no edema, 2+ DPs
Neuro: A+Ox3, Collar has been removed
 
Pertinent Results:
On Admission: ___
WBC-8.2 RBC-3.53* Hgb-8.7* Hct-28.9* MCV-82 MCH-24.5* MCHC-30.0* 
RDW-16.2* Plt ___ PTT-30.0 ___
Glucose-112* UreaN-6 Creat-0.4* Na-131* K-3.9 Cl-96 HCO3-28 
AnGap-11
ALT-8 AST-19 AlkPhos-97 TotBili-0.6
Iron-15* calTIBC-113* Ferritn-828* TRF-87*
Albumin-2.9* Calcium-8.8 Phos-3.7 Mg-1.___ y/o male admitted for continued medical issues following MVC. 
On admission the patient had an abdominal CT performed showing:
1. No interval change in size of the larger hepatic abscess, 
status post interval removal or dislodgement of a previously 
placed pigtail drain catheter.
2. Pigtail catheter remains in appropriate position in a 
subhepatic collection, which is contiguous with, but possibly 
minimally communicating with, the larger collection. 
3. Slight decrease in size of the loculated right pleural 
effusion with pleural thickening and enhancement. There was 
drainage occuring around the pigtail catheter requiring multiple 
dressing changes daily.
On HD ___ the patient underwent ERCP. Per report, 
cannulation of the biliary duct initially was not possible using 
a free-hand technique. Cannulation of the pancreatic duct was 
successful and deep using a free-hand technique. A ___ 4 cm 
pancreatic duct stent was placed to facilitate cannulation of 
the bile duct. An additional cannulation attempt of the biliary 
duct was successful and deep with a sphincterotome using a 
free-hand technique. Contrast medium was injected resulting in 
complete opacification. Fluoroscopy on the biliary tree showed 
the common bile duct, common hepatic duct, right and left 
hepatic ducts, biliary radicles, cystic duct, and gallbladder 
were filled with contrast and well visualized, and there was no 
evidence of bile leak. A 10cm by ___ Cotton ___ biliary stent 
was placed successfully in the main duct due to the stenotic 
papilla following the sphincterotomy. Also, a nasojejunal 
feeding tube was placed using standard endoscopic nasojejunal 
feeding tube placement rechnique. The ___ tube was 
secured at 120 cm at the nose. 
Immediately following the ERCP, the patient also underwent 
exchange and upsizing to ___ Fr of the existing pigtail in the 
subhepatic fluid collection. The intra-hepatic  collection has 
not had any intervention with this hospitalization.

Initially, the patient was kept NPO overnight per protocol 
following the sphincterotomy, and on the following day, as the 
day progressed, the patient was having increased abdominal and 
back pain, and urine output decreased significantly. A foley was 
placed for monitoring, and he received fluid boluses. A mild 
elevation in the lipase was noted, and temp to 100.5 was noted 
and blood cultures were obtained. 2 days following the ERCP the 
patient had fever to 101.2, and was becoming tachycardic to the 
140's. He was also reporting that the epigastric and back pain 
were worsening.
On ___, due to continued decreased urine output, abdominal pain 
and tachycardia, and fever, the patient was transferred to the 
SICU. He was kept NPO, and was started on TPN folloewing central 
line placement. Lipase peaked at 363 and then started to trend 
down, however his abdominal exam still revealed pain and still 
with significant back pain. The abscess pigtail drain was 
draining 150 - 300 cc daily of purulent appearing, thick light 
tan fluid. Blood cultures have remained negative throughout. 
With resuscitaion and NPO status, the patient's symptoms started 
to improve. Urine output improved, he was afebrile, and so was 
transferred back to the surgical floor. He was continued on TPN.

He received 2 units of RBCs for symptomatic Hct 22.9 with 
appropriate response. 
As symptoms subsided, he was very slowly advanced on his diet, 
and the tube feeds were started via the post pyloric feeding 
tube, which had to be replaced while in the SICU due to 
clogging. On ___ he underwent an abdominal CT, assessing the 
severity of the pancreatitis. There was mild ___ 
stranding and thickening of gerotas fascia. The pigtail catheter 
was still in appropriate position in the subhepatic fluid 
collection. The patient was continued on TPN, and he remained 
NPO. The pigtail drain dressing was noted to have drainage that 
seems to increase when patient upright or ambulating. On ___ he 
was sent to CT for another drain upsize to a ___ Fr drain. At the 
time of the surveillance CT, it was noted that there is oral 
contrast from the previous CT scan layering in the abscess 
cavity, suggestive of a fistulous tract to the bowel. He 
underwent a fluoro study with Optiray injected through the new 
___ catheter. This sjowed the abscess cavity filling and a 
small fistulous communication with what appeared to be the small 
bowel. Upon return to the floor, the drainage has taken on a 
brown and thick appearance. At this time he was made NPO and 
will continue on TPN.

TPN was continued on the surgical floor until ___. Prior to 
discontinuation of the TPN, Mr. ___ received a CT scan with 
injection of contrast through his pigtail catheter to further 
elucidate the anatomy. The plan at that time was operative 
intervention assuming the fistula was still patent. However, the 
CT did not identify fistula. Per report, the following was 
identified: "Opacification of the right perihepatic and 
paracolic gutter abscess cavity without evidence of small bowel 
fistulous communication on CT." Operative intervention was 
therefore withheld. Mr. ___ completed a few more days of TPN, 
and then was transitioned to an oral diet. After several days of 
increasing PO intake, he was consuming approximately 1800 kcal 
per day. He was safely discharged on ___ with PTBD 
in place and planned follow-up in clinic.
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Dronabinol 2.5 mg PO BID 
2. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
3. Calcium Carbonate 500 mg PO TID 
4. Vitamin D 400 UNIT PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
7. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*40 Capsule Refills:*2
2. Calcium Carbonate 500 mg PO TID 
3. Vitamin D 400 UNIT PO DAILY 
4. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
5. Multivitamins 1 TAB PO DAILY 
6. Senna 1 TAB PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*40 Capsule Refills:*2
7. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain 
RX *hydromorphone 2 mg 1 tablet(s) by mouth three times a day 
Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hepatic abscess
post endoscopic retrograde cholangiopancreatography pancreatitis
Malnutrition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Please call Dr ___ office at ___ for fever > 101, 
chills, nausea, vomiting, diarrhea, constipation, yellowing of 
skin or eyes, drainage stops completetely or increases to 
greater then 400 cc daily, drainage turns bloody in apprearance, 
or develops a worsening odor, swelling of legs, increased 
abdominal size, drainage around the drain is increasing, or the 
drain site becomes red or painful.
You may shower, avoid having the drain hanging freely at any 
time. Place a new drain sponge around the drain site daily and 
as needed.

Please drain and record the drain bag three times daily and as 
needed. Bring a copy of the drain output with you to clinic. 
Please call if the output increases significantly, stops 
completely, becomes bloody in appearance or develops a worsening 
odor.

No heavy lifting greater than 10 pounds.
No driving if taking narcotic pain medication.
Please ensure you are hydrating well, and be sure to maintain 
adequate nutrition.
 
Followup Instructions:
___